US04826836
4.85 g (0.012 mol) of 2-[2-(3-trifluoromethylphenoxy)-prop-2-yl]-2-methyl-4-(piperidin-1-yl-methyl)-1,3-dioxolane are dissolved in 50 ml of ethanol together with 2.17 g (0.012 mol) of saccharine. The clear solution is evaporated in vacuo and the residue is dried under a high vacuum. 7 g (100% of theory) of 2-[2-(3-trifluoromethyl-phenoxy)-prop-2-yl]-2-methyl-4-(piperidin-1-yl-methyl)-1,3-dioxolane saccharine salt are obtained as an amorphous compound.

reactant | 2-[2-(3-trifluoromethylphenoxy)-prop-2-yl]-2-methyl-4-(piperidin-1-yl-methyl)-1,3-dioxolane | 0.012 mol, 4.85 g | FC(C=1C=C(OC(C)(C)C2(OCC(O2)CN2CCCCC2)C)C=CC1)(F)F | C20H28F3NO3
reactant | saccharine | 0.012 mol, 2.17 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(3-trifluoromethyl-phenoxy)-prop-2-yl]-2-methyl-4-(piperidin-1-yl-methyl)-1,3-dioxolane saccharine salt | 7 g, 100% | S1(=O)(=O)NC(=O)C2=CC=CC=C12.FC(C=1C=C(OC(C)(C)C2(OCC(O2)CN2CCCCC2)C)C=CC1)(F)F | InChI=1S/C20H28F3NO3.C7H5NO3S/c1-18(2,26-16-9-7-8-15(12-16)20(21,22)23)19(3)25-14-17(27-19)13-24-10-5-4-6-11-24;9-7-5-3-1-2-4-6(5)12(10,11)8-7/h7-9,12,17H,4-6,10-11,13-14H2,1-3H3;1-4H,(H,8,9)
